US07906502B2
Ethyl {[2-(1,3-benzodioxol-5-yl)-2-oxoethyl]thio}acetate
Ethyl 2-mercaptoacetate (9.68 mL, 88.3 mmol) was added dropwise to a suspension of K2CO3 (12.2 g, 88.3 mmol) and 1-(1,3-benzodioxol-5-yl)-2-bromoethanone (21.4 g, 88.3 mmol) in dry acetone (100 mL). The mixture was stirred at reflux for seven hours, cooled at an icebath and added 200 mL water. Diethyl ether (400 mL) was added and the phases were separated. The aqueous layer was extracted with diethyl ether (200 mL) and the combined organic layers were washed with brine (200 mL), dried (MgSO4) and concentrated. This afforded the title compound.

reactant | Ethyl 2-mercaptoacetate | 88.3 mmol, 9.68 mL | SCC(=O)OCC | C4H8O2S
reactant | K2CO3 | 88.3 mmol, 12.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(1,3-benzodioxol-5-yl)-2-bromoethanone | 88.3 mmol, 21.4 g | O1COC2=C1C=CC(=C2)C(CBr)=O | C9H7BrO3
reactant | water | 200 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | Diethyl ether | 400 mL | C(C)OCC | C4H10O
product | Ethyl {[2-(1,3-benzodioxol-5-yl)-2-oxoethyl]thio}acetate | O1COC2=C1C=CC(=C2)C(CSCC(=O)OCC)=O | C13H14O5S
